US09238639B2
(7-Fluoro-4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(7-fluoro-4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate (150.6 mg), THF (dry) (2.0 mL) and MeOH (2.0 mL) was added 1N NaOH (1.085 mL) at room temperature. The mixture was stirred at room temperature for 2 h. The mixture was neutralized with 1N HCl and concentrated. The precipitate was collected by filtration to give a solid. The solid was crystallized from EtOAc-hexane to give the title compound (123.5 mg).

reactant | methyl(7-fluoro-4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 150.6 mg | COC(CC1=CSC2=C1C(=CC(=C2F)OCC2=CC(=NN2C)C(F)(F)F)C)=O | C18H16F4N2O3S
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 1.085 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 2.0 mL | CO | CH4O
product | (7-Fluoro-4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 123.5 mg | FC1=C(C=C(C=2C(=CSC21)CC(=O)O)C)OCC2=CC(=NN2C)C(F)(F)F | C17H14F4N2O3S
